US04260779
470 mg (2.11 mmols) of ethyl 2-oxo-2,3-dihydro-3-benzo[b]thiophene-carboxylate and 206 mg (2.22 mmols) of aniline in 3 ml of xylene are boiled under reflux for 5 hours. After cooling, the product is precipitated by adding hexane (3 ml). After further dilution with 5 ml of ether and stirring, crystalline N-phenyl-2-oxo-2,3-dihydro-3-benzo[b]thiophene-carboxamide with a melting point of 140°-142° is obtained and filtered off.

reactant | ethyl 2-oxo-2,3-dihydro-3-benzo[b]thiophene-carboxylate | 2.11 mmols, 470 mg | O=C1C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H10O3S
reactant | aniline | 2.22 mmols, 206 mg | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-phenyl-2-oxo-2,3-dihydro-3-benzo[b]thiophene-carboxamide | C1(=CC=CC=C1)NC(=O)C1C2=C(SC1=O)C=CC=C2 | C15H11NO2S
